US09216988B2
To a solution of N-[[4-(4-acetylpiperazin-1-yl)phenyl]methyl]-1-phenyl-methanesulfonamide (100 mg, 0.25 mmol) in N,N-dimethylacetamide (3 mL) was added sodium hydride (60% in mineral oil) (11.3 mg, 0.28 mmol) and stirred at ambient temperature for 30 minutes. 2,2,2-Trifluoroethyl trifluoromethanesulfonate (72 mg, 0.31 mmol) was then added and stirred at ambient temperature for 16 hours. Water was added and the reaction was partitioned between water and dichloromethane. The dichloromethane layer was isolated with a phase separator cartridge and concentrated and purified by preparative reverse phase HPLC to yield 47 mg of N-(4-(4-acetylpiperazin-1-yl)benzyl)-1-phenyl-N-(2,2,2-trifluoroethyl)methanesulfonamide. 1H NMR (400 MHz, DMSO) δ 7.47-7.32 (m, 5H), 7.21 (d, J=8.5 Hz, 2H), 6.95 (d, J=8.5 Hz, 2H), 4.52 (s, 2H), 4.27 (s, 2H), 3.83 (q, J=9.3 Hz, 2H), 3.62-3.51 (m, 4H), 3.22-3.13 (m, 2H), 3.13-3.03 (m, 2H), 2.03 (s, 3H); LCMS (m/z) ES+ 470.1 [M+1]+.

reactant | N-[[4-(4-acetylpiperazin-1-yl)phenyl]methyl]-1-phenyl-methanesulfonamide | 0.25 mmol, 100 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)CNS(=O)(=O)CC1=CC=CC=C1 | C20H25N3O3S
reactant | sodium hydride | 0.28 mmol, 11.3 mg | [H-].[Na+]
reactant | 2,2,2-Trifluoroethyl trifluoromethanesulfonate | 0.31 mmol, 72 mg | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | Water | O | H2O
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
product | N-(4-(4-acetylpiperazin-1-yl)benzyl)-1-phenyl-N-(2,2,2-trifluoroethyl)methanesulfonamide | 47 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(CN(S(=O)(=O)CC2=CC=CC=C2)CC(F)(F)F)C=C1 | C22H26F3N3O3S
